US05627215
(E)-1-Isopropyl-14-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.24 g (0.35 mmol) of (E)-1-isopropyl-14-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 4 ml of 3N methanolic hydrochloric acid is stirred for 4 h at room temperature. Then the reaction mixture is diluted with 6 ml of diethyl ether and is worked up analogously to Example 1. The resulting title compound melts at >260° C. 1H-NMR (D2O): δ0.97(t,3H); 1.32(d,6H); 1.63-1.76(m,2H); 2.04-2.17(m,4H); 3.02(t,2H); 3.12-3.19(m,8H); 3.37-3.49(m,1H); 3.78(d,4H); 6.05-6.07(m,2H).

reactant | (E)-1-isopropyl-14-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.35 mmol, 0.24 g | C(C)(C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CCC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H68N4O8
reactant | hydrochloric acid | 3N, 4 ml | Cl | ClH
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | (E)-1-Isopropyl-14-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C)(C)NCCCNC\C=C\CNCCCNCCC | InChI=1S/C16H36N4.4ClH/c1-4-9-17-12-7-13-18-10-5-6-11-19-14-8-15-20-16(2)3;;;;/h5-6,16-20H,4,7-15H2,1-3H3;4*1H/b6-5+;;;;
